US07414051B2
Preparation of 2-[3-(2-Chloroethoxy)-4-nitrophenoxy]ethanol
A mixture of 2-(2-chloroethoxy)-4-fluoro-1-nitro-benzene (91.3 g, 6 mmoles), 2-hydroxyethanol (0.57 g, 7.2 mmoles), and cesium carbonate (2.34 g, 7.2 mmoles) in DMF were stirred together at room temperature for 1 hour, diluted with water and extracted with EtOAc. The extracts were combined, washed sequentially with water and brine, dried over Na2SO4 and concentrated under vacuum to afford the title compound (0.63 g, 2.4 mmoles), identified by HNMR and mass spectral analyses.

reactant | 2-(2-chloroethoxy)-4-fluoro-1-nitro-benzene | 6 mmoles, 91.3 g | ClCCOC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7ClFNO3
reactant | 2-hydroxyethanol | 7.2 mmoles, 0.57 g | OCCO | C2H6O2
reactant | cesium carbonate | 7.2 mmoles, 2.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[3-(2-Chloroethoxy)-4-nitrophenoxy]ethanol | 2.4 mmoles, 0.63 g | ClCCOC=1C=C(OCCO)C=CC1[N+](=O)[O-] | C10H12ClNO5
